US07759397B2
a.9 3-Bromo-4-trifluoromethoxy-benzenesulfonyl chloride
2.0 g of 1-bromo-2-(trifluoro-methoxy)benzene (8.3 mmol) were dissolved in 30 ml of dichloromethane. At 0-5° C., 1.06 g of chlorosulfonic acid (9.13 mmol), dissolved in 3 ml of dichloromethane, were added dropwise. The reaction mixture was stirred for 30 min at room temperature. Additional 5.5 equivalents of chlorosulfonic in dichloromethane were added to drive the reaction to completion. Standard work-up was followed and silica gel chromatography with n-heptane-dichloromethane (6:4) as eluent gave 2.19 g of the title compound.

reactant | 1-bromo-2-(trifluoro-methoxy)benzene | 8.3 mmol, 2.0 g | BrC1=C(C=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | chlorosulfonic acid | 9.13 mmol, 1.06 g | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | n-heptane dichloromethane | CCCCCCC.ClCCl
product | 3-Bromo-4-trifluoromethoxy-benzenesulfonyl chloride | 2.19 g | BrC=1C=C(C=CC1OC(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O3S
